US06878706B1
To a stirred solution of 1-(3,4-dihydro-1H-isoquinolin-2-yl)-2-isobutylamino-ethanone (0.45 g, 1.8 mmol) in THF (4.0 mL), a solution of bromoacetyl bromide (0.32 mL, 3.6 mmol) in 4.0 mL THF was added dropwise at −78° C., under argon. After 3 h (the temperature gradually rose to 10° C.) the reaction was concentrated and the remaining residue was diluted with methylene chloride and saturated NaHCO3. The layers were separated and the organic phase was washed with brine and then dried (MgSO4). Filtration and concentration gave the crude product which was purified via silica gel flash chromatography (0-5% MeOH/methylene chloride, 30 mL/min.) to give 0.34 g (51%) of 2-bromo-N-[2-(3,4-dihydro-1H-isoquinolin-2-yl)-2-oxo-ethyl]-N-isobutyl-acetamide.

reactant | 1-(3,4-dihydro-1H-isoquinolin-2-yl)-2-isobutylamino-ethanone | 1.8 mmol, 0.45 g | C1N(CCC2=CC=CC=C12)C(CNCC(C)C)=O | C15H22N2O
reactant | bromoacetyl bromide | 3.6 mmol, 0.32 mL | BrCC(=O)Br | C2H2Br2O
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
product | 2-bromo-N-[2-(3,4-dihydro-1H-isoquinolin-2-yl)-2-oxo-ethyl]-N-isobutyl-acetamide | 0.34 g, 51% | BrCC(=O)N(CC(C)C)CC(=O)N1CC2=CC=CC=C2CC1 | C17H23BrN2O2
